* C:\Users\Carlos\Desktop\ITBA\3er año\1er cuatri\E3\TP2\tp2-grupo-1\EJ8\LTSpice\Ramp_gen.asc
XU1 N005 N004 +VCC -VCC N001 TL08X
XU2 N006 N002 +VCC -VCC N003 TL08X
R1 N001 N004 10k
R2 N001 N005 10k
R3 N005 0 10k
R4 N002 N001 200k
R5 N003 N002 1Meg
R6 N007 N006 150k
C1 N004 0 1µ
C2 N003 N002 100n
V1 +VCC 0 15
V2 0 -VCC 15
R7 +VCC N007 1Meg
R8 N007 0 63k
.tran 0 200m 120m 100u startup
.lib C:\Users\Carlos\Documents\LTspiceXVII\lib\Opamps_Comparators_ST.lib
.backanno
.end
