* C:\Users\Carlos\Desktop\ITBA\3er año\1er cuatri\E3\TP2\tp2-grupo-1\EJ8\LTSpice\Ramp_gen_PRO.asc
XU1 N005 N006 +15V -15V N006 TL08X
XU2 0 N003 +15V -15V N004 TL08X
C1 N004 N003 .1µ
R1 N003 N006 100k
V1 +15V 0 15
V2 0 -15V 15
R2 -15V N005 10k
R3 N005 0 1k
XU3 N004 N007 +15V -15V N008 TL08X
D1 N008 P001 D
D2 N008 N002 D
Q1 N004 N001 N003 0 2N2222
R4 N002 N001 10k
Q2 N011 N009 0 0 2N2222
R5 N011 N010 100
R6 N010 +15V 15k
R7 N007 N010 1
R8 P001 N009 1k
R9 N007 0 7.5k
.model D D
.lib C:\Users\Carlos\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Carlos\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 100m 30m 1m startup
.lib C:\Users\Carlos\Documents\LTspiceXVII\lib\Opamps_Comparators_ST.lib
.backanno
.end
