* C:\Users\Lucas\Documents\Actualmente Usando\Electrónica III\tp2-grupo-1\EJ1\Simulacion\tod.asc
M1 nmos_out N011 0 0 IRFZ44N
R1 N002 nmos_out 10k
V1 N011 0 5
V2 N002 0 5
M2 cmos_out N004 0 0 IRFZ44N
V3 N004 0 5
V4 N001 0 5
M3 cmos_out N004 N001 N001 IRF9640
Q1 N010 N006 N009 0 BC547C
Q2 ttl_out N010 0 0 BC547C
R2 N005 N006 470k
R3 N005 ttl_out 10k
V5 N009 0 5
V6 N005 0 5
Q3 rtl_out N008 0 0 BC547C
R4 N008 N007 470k
R5 rtl_out N003 10k
V7 N007 0 5
V8 N003 0 5
.model NPN NPN
.model PNP PNP
.lib C:\Users\Lucas\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Lucas\Documents\LTspiceXVII\lib\cmp\standard.mos
.op
.backanno
.end
